Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8].[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.5496030855
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:13].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:14]([H:15])[H:16],1.77037750993
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7][C:8]([H:9])([H:10])[O:11][H:12],2.7730171357700004
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7](=[O:8])[H:9]>>[C:7](=[O:8])[H:9].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6],5.81599986102
[H:18].[H:1][C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])=[C:15]([H:16])[H:17]>>[H:1]/[C:2](=[C:3](/[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.82326140823
[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][C:4](=[C:5])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.67046088174
[C:1]#[C:2][O:3][C:4]#[C:5][O:6][H:7]>>[C:1]#[C:2][O:3][C:4]#[C:5].[O:6][H:7],6.75198325645
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],-1.25646437071
[C:3](#[C:4][C:5]([H:6])[H:7])[O:11][H:12].[H:1][O:2][C:8]([H:9])[H:10]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.62197382877
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[O:3],0.7513044998810001
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:7],1.84727441174
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][H:7]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[O:6][H:7],4.870115322759999
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:7]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-4.54695380691
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],4.46059307633
[C:9]=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-3.5648641927499995
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8](=[O:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[H:7].[C:8](=[O:9])[H:10],2.61951532352
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][O:4][H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.60476282287
[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.15822323311
[C:2]#[C:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-5.43474019637
[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7]>>[H:1][C:2][O:3][C:4]#[C:6][H:7].[H:5],2.54065579031
[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2][C:3](=[C:4][H:5])[C:8]([H:9])([H:10])[O:11][H:12].[O:6][H:7],6.008147978180001
[C:1]#[C:2][C:7]([H:8])([H:9])[H:10].[C:3]([H:4])([H:5])[H:6]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-3.1884242102900004
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])=[C:10]([H:11])[H:12].[H:9]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.6768279308200005
[C:2](#[C:3][O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1]=[C:2]([C:3][O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.70408681866
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],3.16548432108
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7].[O:8]=[C:9]([H:10])[H:11],-1.98532041
[H:1][C:2]([H:3])[C@:4]1([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])=[C:12]1[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:12]([C:7](=[O:6])[C:8]([H:9])([H:10])[H:11])[H:13],-1.7613827107099995
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[O:8])[C:10]([H:11])([H:12])[H:13],4.60476341863
